US05545629
The 2'-deoxy-5-hydroxyuridine (244 mg.,1 mmol) was suspended in a mixture of methanol (10 ml) and water (5 ml) at room temperature, and 1 ml of 1.0N sodium hydroxide solution (1 mmol) was added to generate the monoanion. Ethyl bromide (0.312 ml, 4 mmol) was added, and the reaction mixture was stirred for 16 hours. The solvent was removed in vacuo, and ethanol was added to and evaporated from the residue. The desired 5-ethoxy product was separated from small amounts of the 3-ethyl-5-ethoxy dialkyl byproduct by chromatography on a silica gel column using chloroform-methanol (9:1, v/v) as the solvent. Following crystallization from absolute ethanol, 5-ethoxy-2'-deoxyuridine was obtained in 52% yield (140mg); mp 179°-181° C.; 1H NMR (methyl sulfoxide-d6),δ6 11.38 (1H, br s, NH), 7.58 (1H, s, H-6), 6.18 (1H, t, H-1'), 5.19 (1H, d, 3'-OH), 5.09 (1H, t, 5'-OH), 4.25 (1H, m, H-3'), 3.79 (3H, m. H4' and OCH2CH3), 3.59 (2H, br s,H-5' and H-5"), 2.10 (2H, m, H-2' and H-2") and 1.23 ppm (3H, t, OCH2CH3).

reactant | 2'-deoxy-5-hydroxyuridine | 1 mmol, 244 mg | OC=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C9H12N2O6
reactant | sodium hydroxide | 1 mmol, 1.0N, 1 ml | [OH-].[Na+]
reactant | Ethyl bromide | 4 mmol, 0.312 ml | C(C)Br | C2H5Br
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 5-ethoxy-2'-deoxyuridine | 52% yield | C(C)OC=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C11H16N2O6
